### PR TITLE
[Merged by Bors] - feat: quotienting out a polynomial in a family doesn't change the span

### PR DESCRIPTION
**Pull request by YaelDillies**
From GrowthInGroups (LeanCamCombi)

Co-authored-by: Andrew Yang

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Polynomial/CoeffMem.lean [hunk 1]
```diff
@@ -101,4 +104,20 @@ lemma coeff_divByMonic_mem_pow_natDegree_mul (p q : S[X])
...
+  · rw [update_same, modByMonic_eq_sub_mul_div (v j) hi]
+    exact sub_mem (subset_span ⟨j, rfl⟩) <| mul_mem_right _ _ <| subset_span ⟨i, rfl⟩
+  · exact subset_span ⟨k, (update_noteq (.symm hjk) ..).symm⟩
+  · nth_rw 2 [← modByMonic_add_div (v j) hi]
+    apply add_mem (subset_span ?_) (mul_mem_right _ _ (subset_span ?_))
+    · exact ⟨j, update_same ..⟩
+    · exact ⟨i, update_noteq hij ..⟩
+  · exact subset_span ⟨k, update_noteq (.symm hjk) ..⟩
+
+
```
Comment (alreadydone) [inline Mathlib/Algebra/Polynomial/CoeffMem.lean:122]:
```suggestion
  · nth_rw 2 [← modByMonic_add_div (v j) hi]
    exact add_mem (subset_span ⟨j, update_same ..⟩)
      (mul_mem_right _ _ (subset_span ⟨i, update_noteq hij ..⟩))
  · exact subset_span ⟨k, update_noteq (.symm hjk) ..⟩

```

File: Mathlib/Algebra/Polynomial/CoeffMem.lean [hunk 2]
```diff
@@ -101,4 +104,20 @@ lemma coeff_divByMonic_mem_pow_natDegree_mul (p q : S[X])
     gcongr <;> exact sup_le (by simpa) (by simpa [Submodule.span_le, Set.range_subset_iff])
   · simp
 
+open Ideal in
+lemma idealSpan_range_update_divByMonic [DecidableEq ι] (v : ι → R[X]) {i j : ι} (hij : i ≠ j)
+    (hi : (v i).Monic) :
+    span (Set.range (Function.update v j (v j %ₘ v i))) = span (Set.range v) := by
```
Comment (alreadydone) [inline Mathlib/Algebra/Polynomial/CoeffMem.lean:110]: Maybe we could have a version with `v j %ₘ v i` replaced by `v j + p • v i`, and it could fit around [Submodule.span_insert_eq_span](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Span/Defs.html#Submodule.span_insert_eq_span).

File: Mathlib/Algebra/Polynomial/CoeffMem.lean [hunk 3]
```diff
@@ -16,8 +17,10 @@ Precisely, we show that each summand needs at most one coefficient of `p` and `d
 of `q`.
 -/
 
+open Function
+
```
Comment (alreadydone) [inline Mathlib/Algebra/Polynomial/CoeffMem.lean:21]: If you are not using this in a subsequent PR, you could open the namespace in the lemma only.

**Review by alreadydone — APPROVED** [review]

File: Mathlib/Algebra/Polynomial/CoeffMem.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Polynomial/CoeffMem.lean:110]: I don't really see how to prove this more efficiently using `Submodule.span_insert_eq_span`, but I did extract your `v j + p • v i` version as a lemma

Comment (alreadydone) [reply Mathlib/Algebra/Polynomial/CoeffMem.lean]: Yeah I also don't see how, but I think they're similar in spirit, and unfortunately I didn't find more helpful lemmas around it.

File: Mathlib/LinearAlgebra/Span/Defs.lean [hunk 4]
```diff
@@ -433,6 +427,7 @@ theorem span_insert (x) (s : Set M) : span R (insert x s) = (R ∙ x) ⊔ span R
 theorem span_insert_eq_span (h : x ∈ span R s) : span R (insert x s) = span R s :=
   span_eq_of_le _ (Set.insert_subset_iff.mpr ⟨h, subset_span⟩) (span_mono <| subset_insert _ _)
 
+
```
Comment (alreadydone) [inline Mathlib/LinearAlgebra/Span/Defs.lean:430]:
```suggestion
```

File: Mathlib/LinearAlgebra/Span/Defs.lean [hunk 5]
```diff
@@ -531,6 +532,22 @@ theorem mem_span_insert' {x y} {s : Set M} :
   · rintro ⟨a, h⟩
     exact ⟨-a, _, h, by simp [add_comm, add_left_comm]⟩
 
+lemma span_range_update_add_smul (hij : i ≠ j) (v : ι → M) (r : R) :
+    span R (Set.range (Function.update v j (v j + r • v i))) = span R (Set.range v) := by
+  refine le_antisymm ?_ ?_ <;> simp only [span_le, Set.range_subset_iff, SetLike.mem_coe] <;>
+    intro k <;> obtain rfl | hjk := eq_or_ne j k
+  · rw [update_same]
```
Comment (alreadydone) [inline Mathlib/LinearAlgebra/Span/Defs.lean:539]: Please merge master since the has changed.

**Review by alreadydone — APPROVED** [review]
Thanks!
maintainer delegate

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
